US08134015B2
2-(3-diethylaminomethyl-benzoylamino)-5-formyl-4-methyl-thiophene-3-carboxylic acid ethyl ester (110 mg) synthesized by the above process was dissolved in N,N-dimethylformamide (10 ml), acetic acid (100 μl) and sodium triacetoxyborohydride (66 mg) were added to the solution at room temperature, and the mixture was stirred at that temperature for one hr. After the completion of the reaction, the reaction solution was neutralized with a saturated sodium hydrogencarbonate solution, and was then subjected to separatory extraction with ethyl acetate. The organic layer was washed with saturated brine, was dried over sodium sulfate, and was then concentrated under the reduced pressure. The residue was purified by column chromatography eluted with a chloroform-methanol system to give 2-(3-diethylaminomethyl-benzoylamino)-4-methyl-5-piperidin-1-ylmethylthiophene-3-carboxylic acid ethyl ester (79 mg, yield 64%).

reactant | 2-(3-diethylaminomethyl-benzoylamino)-5-formyl-4-methyl-thiophene-3-carboxylic acid ethyl ester | 110 mg | C(C)OC(=O)C1=C(SC(=C1C)C=O)NC(C1=CC(=CC=C1)CN(CC)CC)=O | C21H26N2O4S
reactant | acetic acid | 100 μl | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 66 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(3-diethylaminomethyl-benzoylamino)-4-methyl-5-piperidin-1-ylmethylthiophene-3-carboxylic acid ethyl ester | 79 mg, yield 64% | C(C)OC(=O)C1=C(SC(=C1C)CN1CCCCC1)NC(C1=CC(=CC=C1)CN(CC)CC)=O | C26H37N3O3S
